US06303649B1
To a solution of (2R)-5-[(ethoxycarbonyl)methoxy]-2-[(N-4-fluorophenyl-N-phenylcarbamoyloxy)methyl]-2-hydroxy-1,2,3,4-tetrahydronaphthalene (80 mg) in ethanol (5 ml) was added 1N-NaOH solution (0.2 ml). After being stirred for 4 hours at the same temperature, the solvent was removed in vacuo. The residue was washed with 1N-HCl solution and brine. The dried solvent was removed in vacuo to give (2R)-5-(carboxymethoxy)-2-[(N-4-fluorophenyl-N-phenyl-carbamoyloxy)methyl]-2-hydroxy-1,2,3,4-tetrahydronaphthalene (32 mg).

reactant | (2R)-5-[(ethoxycarbonyl)methoxy]-2-[(N-4-fluorophenyl-N-phenylcarbamoyloxy)methyl]-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 80 mg | C(C)OC(=O)COC1=C2CC[C@](CC2=CC=C1)(O)COC(N(C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C28H28FNO6
reactant | NaOH | 0.2 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2R)-5-(carboxymethoxy)-2-[(N-4-fluorophenyl-N-phenyl-carbamoyloxy)methyl]-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 32 mg | C(=O)(O)COC1=C2CC[C@](CC2=CC=C1)(O)COC(N(C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C26H24FNO6
